US07465726B2
4-[4-(3-Chloro-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (49.6 mg, 0.148 mmol) and 5-amino-3-chloroindazole (26.5 mg, 0.155 mmol) in isopropyl alcohol (2.5 mL, 0.033 mol) in a sealed tube was heated to 90° C. (bath temp.) for 3.5 h. The bath temperature was increased to 105° C., and heating was continued overnight. The bath temperature was increased to 120° C., and heating was continued for 5 d. LC/MS at that time indicated loss of Boc group, i.e., (3-chloro-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine, C18H16ClN7, MW=365.83. Solvents were evaporated. The reddish residue was suspended in N,N-dimethylformamide (3 mL). N,N-diisopropylethylamine (52 μL, 0.30 mmol) and di-tert-butyldicarbonate (33 mg, 0.15 mmol) were added, and the mixture was stirred at rt for 2 h. DMF was evaporated, water and CH2Cl2 were added, and the insoluble brown material was filtered off and washed with CH2Cl2 and water. The layers of the filtrate were separated; the organic layer was washed with water (2×) and brine and dried over MgSO4. The drying agent was filtered off, and the filtrate was concentrated, redissolved in MeOH, passed a through 0.45 μm filter, and purified by MDP. One obtained the title compound as light tan solid. MS (ES+): m/z 465.9/467.9 (100/38) [MH+]. HPLC: tR=2.7 min (ZQ2000, polar—5 min). 1H NMR (DMSO-d6, 400 MHz): δ=1.43 (s, 9H), 2.37-2.44 (brs, 2H), 3.51-3.58 (mc, 2H), 3.99-4.07 (m, 2H), 6.36 (s, 1H), 6.54 (s, 1H), 7.49 (d, J=8.8 Hz, 1H), 7.55 (d, J=8.8 Hz, 1H), 8.05 (s, 1H), 8.12 (s, 1H), 9.21 (s, 1H), 11.88 (brs, 1H), 13.43 (brs, 1H).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.148 mmol, 49.6 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 5-amino-3-chloroindazole | 0.155 mmol, 26.5 mg | NC=1C=C2C(=NNC2=CC1)Cl | C7H6ClN3
reactant | isopropyl alcohol | 0.033 mol, 2.5 mL | C(C)(C)O | C3H8O
reactant | (3-chloro-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | ClC1=NNC2=CC=C(C=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2 | C18H16ClN7
reactant | N,N-diisopropylethylamine | 0.30 mmol, 52 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyldicarbonate | 0.15 mmol, 33 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 4-[4-(3-Chloro-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C(=NNC3=CC2)Cl)N1 | C23H24ClN7O2
